US04018794
To a stirred mixture of conc. sulfuric acid (125 ml) and water (40 ml), 4-amino-6-carboxy-3-phenyl-1,2-benzisothiazole 1,1-dioxide (15.1 g) is added in portions. The resulting solution is cooled to 0° -5° C. and the amine is diazotized by the dropwise addition of a solution of sodium nitrite (3.8 g) in water (40 ml). The diazonium-mixture is then heated on a steam bath for 2-3 hours until the nitrogen evolution has ceased. After cooling and dilution with water (about 200 ml), the resulting precipitate is collected by filtration and washed with water. The material is dried and recrystallized twice from aqueous ethanol. The thus purified material is dissolved in 1 N sodium hydroxide and the solution is added to a slight excess of ice-cold 1 N hydrochloric acid. The resulting precipitate is collected by filtration, washed with water and dried in vacuo in the presence of P2O5 to give 4-benzoyl-3-hydroxy-5-sulfamylbenzoic acid as a hemihydrate.

reactant | sulfuric acid | 125 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-amino-6-carboxy-3-phenyl-1,2-benzisothiazole 1,1-dioxide | 15.1 g | NC1=CC(=CC2=C1C(=NS2(=O)=O)C2=CC=CC=C2)C(=O)O | C14H10N2O4S
reactant | sodium nitrite | 3.8 g | N(=O)[O-].[Na+]
reactant | water | 40 ml | O | H2O
reactant | water | 40 ml | O | H2O
product | 4-benzoyl-3-hydroxy-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)O | C14H11NO6S
